US05225402
A mixture of 1-[1-{4-[3-(N-benzyl-N-methylamino)-propoxy] benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril (5.3 g), 5% palladium-carbon (0.8 g), ammonium formate (2.6 g) and ethanol (300 ml) is refluxed with heating for 2 hours. The catalyst is filtered off and ethanol is distilled off under reduced pressure. To the residue is added chloroform and the mixture is washed successively with saturated sodium hydrogen carbonate, water and saline solution. Further the mixture is dried with sodium sulfate and the solvent is distilled off. The resulting residue is purified by silica gel column chromatography (solvent: dichloromethane:methanol=20:1→5:1) to give 1-[1-{4-[3-(N-methylamino)propoxy]benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril (4.37 g).

reactant | 1-[1-{4-[3-(N-benzyl-N-methylamino)-propoxy] benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril | 5.3 g | C(C1=CC=CC=C1)N(C)CCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C32H37N3O3
reactant | ammonium formate | 2.6 g | C(=O)[O-].[NH4+]
catalyst | palladium-carbon | 0.8 g | [C].[Pd]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-[1-{4-[3-(N-methylamino)propoxy]benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril | 4.37 g | CNCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C25H31N3O3
